US07662955B2
Preparation of Cefoxitin Sodium:
To cefoxitin acid (11 g) in 12% aqueous acetone (88 ml), 60% aqueous sodium lactate (4.7 g) solution was added at 30° C. and stirred for 10 minutes, excess acetone was added (275 ml) to precipitate the product. The solid was filtered and dried under vacuum to yield the title compound in pure form (10 g)

reactant | cefoxitin | 11 g | CO[C@@]1([C@@H]2N(C1=O)C(=C(CS2)COC(=O)N)C(=O)O)NC(=O)CC3=CC=CS3 | C16H17N3O7S2
reactant | sodium lactate | 4.7 g | C(C(O)C)(=O)[O-].[Na+]
solvent | acetone | 88 ml | CC(=O)C | C3H6O
product | Cefoxitin Sodium | CO[C@@]1([C@@H]2N(C1=O)C(=C(CS2)COC(=O)N)C(=O)[O-])NC(=O)CC3=CC=CS3.[Na+] | InChI=1S/C16H17N3O7S2.Na/c1-25-16(18-10(20)5-9-3-2-4-27-9)13(23)19-11(12(21)22)8(6-26-15(17)24)7-28-14(16)19;/h2-4,14H,5-7H2,1H3,(H2,17,24)(H,18,20)(H,21,22);/q;+1/p-1/t14-,16+;/m1./s1
